US07947382B2
d) Synthesis of 2,7-dibromo-9,10-dimethylphenanthrene (EM1)
43.4 g (113 mmol) of 2,7-dibromo-9-hydroxy-10,10-dimethyl-9,10-dihydrophenanthrene were suspended in 610 ml of acetic acid. 780 mg of iodine and 3.5 ml of HBr in acetic acid were added, and the suspension was heated to reflux. The mixture was allowed to cool overnight with stirring. The residue was filtered off with suction and washed with water and methanol, giving 35.8 g (87.0% of theory) of the product.

reactant | 2,7-dibromo-9-hydroxy-10,10-dimethyl-9,10-dihydrophenanthrene | 113 mmol, 43.4 g | BrC1=CC=2C(C(C3=CC(=CC=C3C2C=C1)Br)O)(C)C | C16H14Br2O
reactant | iodine | 780 mg | II | I2
reactant | HBr | 3.5 ml | Br | BrH
reactant | acetic acid | 610 ml | C(C)(=O)O | C2H4O2
product | 2,7-dibromo-9,10-dimethylphenanthrene | BrC1=CC=2C(=C(C3=CC(=CC=C3C2C=C1)Br)C)C | C16H12Br2
